US08871756B2
N-{[3-(Benzylamino)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 55-1 in Scheme 23 by using 2,4-dichloro-6-methylquinazoline, 3-(aminomethyl)-N-benzyloxetan-3-amine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide. MS obsd. (ESI+) [(M+H)+] 514, 1H NMR (400 MHz, CD3OD) δ ppm 8.06 (s, 1 H), 7.81-7.77 (m, 2 H), 7.66-7.56 (m, 4 H), 7.47-7.45 (m, 2 H), 7.31-7.29 (m, 3 H), 5.45-5.35 (d, 1 H), 5.10 (brs, 1 H), 4.82-4.80 (m, 6 H), 4.71-4.69 (m, 2 H), 4.16 (s, 2 H), 3.51 (m, 2 H), 2.46 (s, 3 H).

reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 3-(aminomethyl)-N-benzyloxetan-3-amine | NCC1(COC1)NCC1=CC=CC=C1 | C11H16N2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
product | N-{[3-(Benzylamino)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | C(C1=CC=CC=C1)NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C29H31N5O2S
